US08183397B2
To a solution of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(iodomethyl)-tetrahydropyran-2-one (40.00 g, 108.0 mmol) in AcOH (660 mL), AgOAc (20.03 g, 118.8 mmol) is added. The resultant mixture is then heated at 125° C. for 6 hours. The reaction mixture is filtered through diatomite filter medium (Celite®). The obtained filtrate is evaporated to afford the residue. To this residue, EtOAc (500 mL) and water (600 mL) are added. The organic layer is separated and the aqueous layer is washed again with EtOAc (5×150 mL). The combined organic layers are washed with water (4×300 mL), brine (5×300 mL) and dried over anhydrous MgSO4, filtered and concentrated under the reduced pressure to afford 30.28 g (92.6%) of ((2S,4R)-4-(tert-butyldimethylsilyloxy)-6-oxo-tetrahydro-2H-pyran-2-yl)methyl acetate as yellow oil (HPLC purity 98%).

reactant | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(iodomethyl)-tetrahydropyran-2-one | 108.0 mmol, 40.00 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)CI)=O | C12H23IO3Si
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
reactant | water | 600 mL | O | H2O
solvent | AcOH | 660 mL | CC(=O)O | C2H4O2
catalyst | AgOAc | 118.8 mmol, 20.03 g | CC(=O)[O-].[Ag+]
product | ((2S,4R)-4-(tert-butyldimethylsilyloxy)-6-oxo-tetrahydro-2H-pyran-2-yl)methyl acetate | 30.28 g, 92.6% | C(C)(=O)OC[C@H]1OC(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)=O | C14H26O5Si
